Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-4.62668246026
[C:1]=[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]([O:3][H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],4.41898520772
[O:1]=[C:2].[O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-1.06901880768
[C:9]([H:10])[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-8.66428006217
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],1.93705152709
[H:1][O:2][C:3]1[C@:4]([H:5])([O:6][H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.22376423796
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.16326999623
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][H:11].[O:1],7.97507661734
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])[H:14].[H:5],3.59835997318
[H:8].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-2.0334622552
[H:16].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.563854282149999
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],4.04151032517
[H:1].[O:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[O:9][H:10],-3.4958288002999995
[C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.64344835214
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.38631778615
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.44792699239
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])=[C:6][H:7]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.87233836665
[C:3]([H:4])[C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2]([C:3]([H:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.0479147074
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[H:4],3.63133903147
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[H:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9],1.92688542739
[H:1][O:2][C:3]#[C:4][C:5][O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C:4]#[C:5].[O:6]=[C:7]([H:8])[H:9],0.572544679289
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],-10.65181274
[C:9]([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-6.463921322359999
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:4].[O:1]=[C:2]([H:3])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],0.4241020406769999
[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][O:3]/[C:4](=[C:5]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.8696643288900003
[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]#[C:8][H:9],-7.791391955549999
[C:1][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10].[C:2]#[C:3]>>[C:1]#[C:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10],-8.01969655678
